US08541575B2
Cesium carbonate (8.34 g, 25.6 mmol) and (2-chloromethoxy-ethyl)-trimethyl-silane (1.71 g, 10.24 mmol) were added to a solution of 3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzonitrile (2.10 g, 8.54 mmol) in dry DMF (70 ml) and the reaction mixture was stirred at room temperature under nitrogen atmosphere for 24 h. A further addition of (2-chloromethoxy-ethyl)-trimethyl-silane (0.57 g, 3.41 mmol) was required to affect reaction completion; the solvent was then removed under reduced pressure and the residue was taken up with DCM (50 ml). The organic layer was washed with a saturated NaHCO3 solution (1×50 ml), brine (1×50 ml), dried over Na2SO4. The filtrate was evaporated to dryness to give a brown oil, which was purified by flash chromatography, over silica gel, using DCM/MeOH/NH4OH (9.8:0.2:0.1) as eluent, to afford 3-[4-pyridin-4-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazol-3-yl]-benzonitrile (2.57 g, 6.82 mmol, 80%).

reactant | Cesium carbonate | 25.6 mmol, 8.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2-chloromethoxy-ethyl)-trimethyl-silane | 10.24 mmol, 1.71 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | 3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzonitrile | 8.54 mmol, 2.10 g | N1=CC=C(C=C1)C=1C(=NNC1)C=1C=C(C#N)C=CC1 | C15H10N4
reactant | (2-chloromethoxy-ethyl)-trimethyl-silane | 3.41 mmol, 0.57 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 3-[4-pyridin-4-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazol-3-yl]-benzonitrile | 6.82 mmol, 2.57 g, 80% | N1=CC=C(C=C1)C=1C(=NN(C1)COCC[Si](C)(C)C)C=1C=C(C#N)C=CC1 | C21H24N4OSi
